US07825258B2
2-[2-(3-Chloro-benzyl)-5,6-difluoro-benzoimidazol-1-yl]-2,N-dicyclohexyl-acetamide
To a solution of (2-amino-4,5-difluoro-phenyl)-carbamic acid tert-butyl ester (36.64 mg, 0.15 mmol, 1.0 equiv) in methanol (2.0 mL) was added cyclohexanecarbaldehyde (25.80 mg, 27.08 μL, 0.23 mmol, 1.5 equiv; [2043-61-0]) and the mixture stirred at rt. After 30 min, (3-chloro-phenyl)-acetic acid (34.12 mg, 0.20 mmol, 1.33 equiv; [CAS RN 1878-65-5]) and cyclohexyl isocyanide (16.38 mg, 18.41 μL, 0.15 mmol, 1.0 equiv; [931-53-3]) were added and stirring continued at rt for 2 h. A solution of 4 M HCl in dioxane (0.2 mL) was added and the reaction mixture stirred at rt overnight. Removal of the solvent mixture under reduced pressure and purification by preparative HPLC on reversed phase eluting with a gradient of acetonitrile/water provided 15.7 mg (21%) of the title compound. MS (ISP): 500.2 [M+H]+.

reactant | (2-amino-4,5-difluoro-phenyl)-carbamic acid tert-butyl ester | 0.15 mmol, 36.64 mg, 1.0 equiv | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)F)N)=O | C11H14F2N2O2
reactant | cyclohexanecarbaldehyde | 0.23 mmol, 27.08 μL, 25.80 mg, 1.5 equiv | C1(CCCCC1)C=O | C7H12O
reactant | (3-chloro-phenyl)-acetic acid | 0.20 mmol, 34.12 mg, 1.33 equiv | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | cyclohexyl isocyanide | 0.15 mmol, 18.41 μL, 16.38 mg, 1.0 equiv | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | HCl | 4 M | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
solvent | dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(3-Chloro-benzyl)-5,6-difluoro-benzoimidazol-1-yl]-2,N-dicyclohexyl-acetamide | 15.7 mg, 21% | ClC=1C=C(CC2=NC3=C(N2C(C(=O)NC2CCCCC2)C2CCCCC2)C=C(C(=C3)F)F)C=CC1 | C28H32ClF2N3O
